US07842694B2
1,1-Dimethylethyl 3-[({3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(phenylmethyl)oxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate
DIPEA (28.5 mL, 164 mmol) was added to a suspension of 3-[(1S)-2-methoxy-(1-methylethyl)oxy]-5-{[phenylmethyl]oxy}benzoic acid (20.7 g, 65.6 mmol), HATU (31.2 g, 82.0 mmol) and 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate (15.0 g, 82.0 mmol) in DMF (30 mL) and the reaction mixture stirred for 16 hours at RT. Water (250 mL) was added and the reaction mixture extracted with diethyl ether (3×150 mL). The organic layer was washed with saturated brine solution and dried (MgSO4). The filtrate was concentrated in vacuo and the residue crystallised on standing. The crystals were washed with isohexane to give to give the desired material as yellow crystals (23.4 g; 73%). m/z 482 (M+H)+.

reactant | DIPEA | 164 mmol, 28.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[(1S)-2-methoxy-(1-methylethyl)oxy]-5-{[phenylmethyl]oxy}benzoic acid | 65.6 mmol, 20.7 g | COC[C@H](C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C18H20O5
reactant | HATU | 82.0 mmol, 31.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate | 82.0 mmol, 15.0 g | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | Water | 250 mL | O | H2O
product | 1,1-Dimethylethyl 3-[({3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(phenylmethyl)oxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate | 23.4 g, 73% | C[C@@H](COC)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(=O)NC1=NN(C=C1)C(=O)OC(C)(C)C | C26H31N3O6
